US06384065B1
In 9 ml of anhydrous tetrahydrofuran was dissolved 0.60 g of (3R)-4-benzoyl-8-({[3-(benzoyloxy)-3-oxopropyl]-amino}carbonyl)-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid. At 0-5° C., 0.26 g of L-methionine methyl ester hydrochloride, 0.19 g of 1-hydroxybenzotriazole monohydrate and 0.14 ml of N-methylmorpholine were successively added. After stirring the mixture at the same temperature as above for 30 minutes, 0.27 g of dicyclohexyl carbodiimide was added and the resulting mixture was stirred at the same temperature as above for 30 minutes and then at ambient temperature for 6 hours. The insoluble matter was filtered off, the filtrate was added to a mixture of water and ethyl acetate, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer was washed successively with water, saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by column chromatography [eluent: toluene:ethyl acetate=1:2] gave 0.62 g of methyl (2S)-2-({[(3R)-4-benzoyl-8-({[3-(benzyloxy)-3-oxopropyl]amino}carbonyl)-1-thia-4-azaspiro[4.5]decan-3-yl]carbonyl}amino)-4-(methylthio)butyrate as a colorless oily product.

reactant | (3R)-4-benzoyl-8-({[3-(benzoyloxy)-3-oxopropyl]-amino}carbonyl)-1-thia-4-azaspiro[4.5]decane-3-carboxylic acid | 0.60 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)C(=O)NCCC(=O)OC(C2=CC=CC=C2)=O)C(=O)O | C27H28N2O7S
reactant | L-methionine methyl ester hydrochloride | 0.26 g | Cl.COC([C@@H](N)CCSC)=O
reactant | 1-hydroxybenzotriazole monohydrate | 0.19 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.14 ml | CN1CCOCC1 | C5H11NO
reactant | dicyclohexyl carbodiimide | 0.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | methyl (2S)-2-({[(3R)-4-benzoyl-8-({[3-(benzyloxy)-3-oxopropyl]amino}carbonyl)-1-thia-4-azaspiro[4.5]decan-3-yl]carbonyl}amino)-4-(methylthio)butyrate | 0.62 g | C(C1=CC=CC=C1)(=O)N1[C@@H](CSC12CCC(CC2)C(=O)NCCC(=O)OCC2=CC=CC=C2)C(=O)N[C@H](C(=O)OC)CCSC | C33H41N3O7S2
